US05541195
(2R*,4S*)-2-Benzyl-1-((3S)-(2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-3-yl)carbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
1.97 ml, 19.9 mmol) of piperidine are added to a solution of 338 mg (0.399 mmol) of (2R*,4S*)-2-benzyl-1-((3S)-(2-(9-fluorenylmethyloxycarbonyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-3-yl)carbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine in 3 ml of N,N-dimethylformamide, and the mixture is stirred at room temperature for 2 hours. It is then concentrated in a rotary evaporator, and the residue is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (2000:50:1) to separate the diastereomers. TLC: methylene chloride/methanol/conc. ammonia (700:50:1)

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | (2R*,4S*)-2-benzyl-1-((3S)-(2-(9-fluorenylmethyloxycarbonyl)-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-3-yl)carbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.399 mmol, 338 mg | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)[C@@H]1CC2=C(NC3=CC=CC=C23)CN1C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C51H44F3N5O4
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (2R*,4S*)-2-Benzyl-1-((3S)-(2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indol-3-yl)carbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)[C@@H]1CC2=C(NC3=CC=CC=C23)CN1 | C36H34F3N5O2
